US07553798B2
b) Preparation of 2-iodo-5-(2-nitro-phenyl)-thiophene
2-(2-nitro-phenyl)-thiophene (23 g, 0.11 mol) and N-iodosuccinimide (37 g, 0.165 mol) were dissolved in 110 ml of methanol. To this solution, acetic acid (10 g, 0.165 mol) was added. After stirring the reaction mixture for 4 hours at room temperature, the solvent was evaporated. The remainder was taken up in a mixture of ice and water and extracted with ethyl acetate. The combined organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over magnesium sulfate and evaporated, delivering 2-iodo-5-(2-nitro-phenyl)-thiophene (28 g).

reactant | 2-(2-nitro-phenyl)-thiophene | 0.11 mol, 23 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC=CC1 | C10H7NO2S
reactant | N-iodosuccinimide | 0.165 mol, 37 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetic acid | 0.165 mol, 10 g | C(C)(=O)O | C2H4O2
solvent | methanol | 110 ml | CO | CH4O
product | 2-iodo-5-(2-nitro-phenyl)-thiophene | IC=1SC(=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C10H6INO2S
